US08278322B2
Step 2: 7-(allyloxy)-1-chloroisoquinoline
1-Chloroisoquinolin-7-ol (4.87 gm, 20.34 mmol) and cesium carbonate (6.63 g, 20.34 mmol) were combined in acetonitrile (100 mL) and stirred for 2 min. Allyl bromide (1.76 mL, 20.34 mmol) was added and the reaction mixture stirred for 30 min. The reaction mixture was diluted with aqueous KHSO4 (40 mL) and EtOAc (100 mL) and stirred. The organic extract was removed, dried over Na2SO4, concentrated and chromatographed on silica gel using 20-50% EtOAc/hexanes to give 0.85 g of an oil which solidified upon storing in the freezer. LRMS (M+H)+=220.1.

reactant | 1-Chloroisoquinolin-7-ol | 20.34 mmol, 4.87 gm | ClC1=NC=CC2=CC=C(C=C12)O | C9H6ClNO
reactant | cesium carbonate | 20.34 mmol, 6.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Allyl bromide | 20.34 mmol, 1.76 mL | C(C=C)Br | C3H5Br
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | KHSO4 | 40 mL | OS(=O)(=O)[O-].[K+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 7-(allyloxy)-1-chloroisoquinoline | 0.85 g | C(C=C)OC1=CC=C2C=CN=C(C2=C1)Cl | C12H10ClNO
